* C:\WORKS\WS\Electronics\Sims\D-11_v-1-0_e-1_LMC555+PNP+NPN.asc
XU1 0 N003 N004 N001 N005 N003 N002 N001 NE555
R1 N002 N001 1k
R2 N002 N003 1k
C1 N003 0 100u
C2 N005 0 0.01u
V1 N001 0 3v
Q1 N001 N004 N006 0 NPN
R4 N006 N007 240
D2 N007 0 D
.model D D
.lib C:\WORKS\PROGRAMS\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\WORKS\PROGRAMS\LTspiceIV\lib\cmp\standard.bjt
.tran 100m
.lib NE555.sub
.backanno
.end
